US06809199B2
To a solution of tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-3-methylpiperazine-1-carboxylate (186 mg, 0.30 mmol) in methylene chloride (1 mL) at 0° C. was added trifluoroacetic acid (0.92 mL) dropwise. Then the reaction was stirred at rt for 1 h. Removal of the solvent and subsequent purification by preparative thin layer chromatography using 8% of 2N ammonium in methanol/methylene chloride as eluent provided the 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(2-methylpiperazin-1-yl)methyl]-3,4-dihydroquinazolin-2(1H)-one compound. 1H NMR (CDCl3, 500 MHz): δ 0.98 (m, 3H), 2.06 (m, 2H), 2.32 (s, 1H), 2.48 (m, 1H), 2.63 (m, 1H), 2.72 (t, 1H, J=10.2 Hz), 2.84 (m, 2H), 3.15 (dd, 1H, J1=14.0 Hz, J2=6.0 Hz), 3.86 (t, 1H, J=13.2 Hz), 4.34 (abq, 2H, J=14.2 Hz), 5.23 (s, 1H), 6.15 (d, 1H, J=9.4 Hz), 6.88 (s, 1H), 7.20-7.60 (m, 7H). MS (API-ES+): 517 (M+H).

reactant | tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}-3-methylpiperazine-1-carboxylate | 0.30 mmol, 186 mg | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1C(CN(CC1)C(=O)OC(C)(C)C)C)C1=C(C=CC=C1Cl)Cl)=O | C31H33Cl3N4O3
reactant | trifluoroacetic acid | 0.92 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(2-methylpiperazin-1-yl)methyl]-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1C(CNCC1)C)C1=C(C=CC=C1Cl)Cl)=O | C26H25Cl3N4O
